US20010027196A1
6-Amino-4-[(3-chloro-5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-2-furan-2-yl-nicotinonitrile
From trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester, 2-aminomethyl-3-chloro-5-(trifluoromethyl)pyridine hydrochloride and DBU in DME. ES-MS m/e (%): 396 (M{37Cl}+H+, 40), 394 (M{35C}+H+, 100).

reactant | trifluoromethanesulfonic acid 6-amino-3-cyano-2-furan-2-yl-pyridin-4-yl ester | NC1=CC(=C(C(=N1)C=1OC=CC1)C#N)OS(=O)(=O)C(F)(F)F | C11H6F3N3O4S
reactant | 2-aminomethyl-3-chloro-5-(trifluoromethyl)pyridine hydrochloride | Cl.NCC1=NC=C(C=C1Cl)C(F)(F)F
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 6-Amino-4-[(3-chloro-5-trifluoromethyl-pyridin-2-yl-methyl)-amino]-2-furan-2-yl-nicotinonitrile | NC1=NC(=C(C#N)C(=C1)NCC1=NC=C(C=C1Cl)C(F)(F)F)C=1OC=CC1 | C17H11ClF3N5O
